US09353113B2
7-(chloroacetyl)-9-(3-fluorobenzyl)-6,7,8,9-tetrahydro-5H-pyrido[4′,3′:4,5]pyrrolo[2,3-b]pyridine
To a suspension of 9-(3-fluorobenzyl)-6,7,8,9-tetrahydro-5H-pyrido[4′,3′:4,5]pyrrolo[2,3-b]pyridine (500 mg) produced by operation in accordance with Reference manufacturing example 1 in THF (10 mL) were sequentially added triethylamine (0.59 mL) and chloroacetyl chloride (0.135 mL), and the mixture was stirred for 30 minutes. The reaction mixture was poured into an aqueous saturated sodium bicarbonate solution, followed by extraction with ethyl acetate. The organic layer was washed with an aqueous saturated sodium chloride solution, dried with anhydrous magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to obtain the title compound (459 mg) having the following physical property values.

reactant | 9-(3-fluorobenzyl)-6,7,8,9-tetrahydro-5H-pyrido[4′,3′:4,5]pyrrolo[2,3-b]pyridine | 500 mg | FC=1C=C(CN2C3=C(C=4C2=NC=CC4)CCNC3)C=CC1 | C17H16FN3
reactant | triethylamine | 0.59 mL | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 0.135 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 7-(chloroacetyl)-9-(3-fluorobenzyl)-6,7,8,9-tetrahydro-5H-pyrido[4′,3′:4,5]pyrrolo[2,3-b]pyridine | 459 mg | ClCC(=O)N1CC2=C(C=3C(=NC=CC3)N2CC2=CC(=CC=C2)F)CC1 | C19H17ClFN3O
